US06576656B1
1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-[3-(N-ethylureido)-1-propynyl]-3-hydroxy-3-(2-naphthyl)oxindole
A mixture of 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-(3-amino-1-propynyl)-3-hydroxy-3-(2-naphthyl)oxindole (40 mg, 0.074 mmol), ethyl isocyanate (0.0065 mL, 0.0821 mmol), and triethylamine (0.025 mL, 0.0821 mmol) in THF (0.5 mL) was stirred for 4 h at room temperature and the reaction was quenched with sat. aqueous NaHCO3. The mixture was extracted with ethyl acetate and the extracts were dried over MgSO4 and concentrated. The residue was purified by column chromatography with 40:1 to 20:1 chloroform/methanol to give the title compound (20.6 mg). The hydrochloride of the title compound was obtained by treating with 4 N HCl in dioxane followed by concentration to dryness.

reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-(3-amino-1-propynyl)-3-hydroxy-3-(2-naphthyl)oxindole | 0.074 mmol, 40 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#CCN)C(F)(F)F)(C1=CC2=CC=CC=C2C=C1)O)=O)CC | C28H28F3N3O2
reactant | ethyl isocyanate | 0.0821 mmol, 0.0065 mL | C(C)N=C=O | C3H5NO
reactant | triethylamine | 0.0821 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-[3-(N-ethylureido)-1-propynyl]-3-hydroxy-3-(2-naphthyl)oxindole | 20.6 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#CCN(C(=O)N)CC)C(F)(F)F)(C1=CC2=CC=CC=C2C=C1)O)=O)CC | C31H33F3N4O3
